US09062056B2
(R)-3-(6-Cyano-3-nitro-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester
In a microwave reaction vessel was dissolved (R)-3-(6-chloro-3-nitro-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester (0.75 g, 2.14 mmol) in DMF (12 ml). Added the zinc cyanide (0.15 g, 1.29 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.25 g, 0.21 mmol). Reaction mixture was degassed using a stream of nitrogen and capped. Reaction was heated in a microwave at 120° C. for 1 hour and then stirred at room temperature for 72 hours. After this time the reaction was poured into water and EtOAc. The layers were separated and the aqueous phase was extracted with EtOAc (3×). The combined organics were dried (MgSO4), filtered and concentrated to give the crude product which was purified via silica gel flash column chromatography (12 g silica gel, 5-20% EtOAc/hexanes) to afford 0.70 g (96%) of the title compound.

reactant | (R)-3-(6-chloro-3-nitro-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester | 2.14 mmol, 0.75 g | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=CC=C1[N+](=O)[O-])Cl)=O | C16H16ClN3O4
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | DMF | 12 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.29 mmol, 0.15 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.21 mmol, 0.25 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-3-(6-Cyano-3-nitro-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester | 0.70 g, 96% | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=CC=C1[N+](=O)[O-])C#N)=O | C17H16N4O4
